US04837204
Diethyl (α,α-dimethylbenzyl)malonate was prepared by the congugate addition of phenyl magnesium bromide to diethyl isopropylidenemalonate as described by C. Holmberg [Liebigs Ann. Chem., 748 (1981)]. A solution of this diester (42.1 g, 0.15 mole) in ethanol (100 ml) was treated by dropwise addition with a solution of potassium hydroxide (8.48 g, 0.13 mole) in 100 ml of ethanol. After heating at 90° C. for 1 h and at 50° C. for 20 h, the reaction mixture was evaporated on the rotary evaporator to a residue. The residue was diluted with water and extracted with ether to remove unreacted starting material. The aqueous phase was cooled to 5° C., acidified to pH 3 with 6N HCl, and extracted with methylene chloride. The organic layer was washed with brine solution and dried over magnesium sulfate. Evaporation of the solvent gave 27.3 g (84%) of liquid product NMR (CDCl3): 1.05 (3H, t), 1.6 (6H, s), 3.78 (1H, s), 3.96 (2H, m), 7.2 7.4 (5H, m).

reactant | phenyl magnesium bromide | C1(=CC=CC=C1)[Mg]Br
reactant | diethyl isopropylidenemalonate | C(C)(C)=C(C(=O)OCC)C(=O)OCC | C10H16O4
reactant | potassium hydroxide | 0.13 mole, 8.48 g | [OH-].[K+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | Diethyl (α,α-dimethylbenzyl)malonate | CC(C1=CC=CC=C1)(C)C(C(=O)OCC)C(=O)OCC | C16H22O4
